US08648066B2
7-(2-cyclopropyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-[5-(cyclopropylmethyl)-2,6-dimethylpyrimidin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 6 by using 1-methylpropyl 2-cyclopropyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate hydrochloride (reagent preparation 19) and 4-chloro-5-(cyclopropylmethyl)-2,6-dimethylpyrimidine (reagent preparation 8) in step 3. 1H NMR (400 MHz, methanol-d4) δ 8.71 (s, 1H), 8.25 (s, 1H), 7.78 (d, 1H), 7.58 (dd, 1H), 7.09 (d, 1H), 5.14 (s, 2H), 4.50 (m, 2H), 4.29 (m, 2H), 2.72 (d, 2H), 2.52 (s, 3H), 2.51 (s, 3H), 2.39 (m, 1H), 1.43 (m, 4H), 0.88 (m, 1H), 0.50 (m, 2H), 0.10 (m, 2H); MS (EI) for C28H30N6O: 467 (MH+).

reactant | 1-methylpropyl 2-cyclopropyl-6-(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-imidazo[4,5-b]pyridine-1-carboxylate hydrochloride | Cl.C1(CC1)C=1N(C=2C(=NC=C(C2)C=2C=CC3=C(CNCCO3)C2)N1)C(=O)OC(CC)C
reactant | 4-chloro-5-(cyclopropylmethyl)-2,6-dimethylpyrimidine | ClC1=NC(=NC(=C1CC1CC1)C)C | C10H13ClN2
product | 7-(2-cyclopropyl-1H-imidazo[4,5-b]pyridin-6-yl)-4-[5-(cyclopropylmethyl)-2,6-dimethylpyrimidin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine | C1(CC1)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC(=NC(=C3CC3CC3)C)C)C2)N1 | C28H30N6O
